US05292956
Charge a suitable reaction vessel with 3.0 g (6.2 mmols) of N,N-bis[β-(3,5-di-t-butyl-4-hydroxyphenyl)ethyl]amine, 2.2 g of 37% formaldehyde (27.1 mmols), 0.6 g of 10% Pd/C, and 15 mL of n-butanol. Purge with hydrogen and shake the vessel on a Parr Series 3900 Hydrogenation Apparatus at 60 psi (0.4 MPa) hydrogen pressure and room temperature for 5 hours. Dilute the resulting slurry with 30 mL of methylene chloride, filter, and concentrate the filtrate in vacuo to give 3.1 g of N,N-bis[β-(3,5-di-t-butyl-4-hydroxyphenyl)ethyl]methylamine as a yellow oil which slowly crystallizes on standing. GC area % analysis shows the product to be 98.8% pure.

reactant | N,N-bis[β-(3,5-di-t-butyl-4-hydroxyphenyl)ethyl]amine | 6.2 mmols, 3.0 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCNCCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C32H51NO2
reactant | formaldehyde | 27.1 mmols, 2.2 g | C=O | CH2O
catalyst | Pd/C | 0.6 g | [Pd] | Pd
solvent | n-butanol | 15 mL | C(CCC)O | C4H10O
product | N,N-bis[β-(3,5-di-t-butyl-4-hydroxyphenyl)ethyl]methylamine | 3.1 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCN(CCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C | C33H53NO2
